US07585885B2
N-Methyl-5-(2-phenyl-[1,3]dithian-2-yl)-N-propyl-isophthalamic acid methyl ester
Add boron trifluoride diethyl etherate (0.358 mL, 2.83 mmol) to a solution of 5-benzoyl-N-methyl-N-propyl-isophthalamic acid methyl ester (0.192 g, 0.566 mmol) in dichloromethane (3 mL) at 0° C. Add 1,3-propanedithiol (0.114 mL, 1.12 mmol). Stir at room temperature overnight. Partition between water (20 mL) and dichloromethane (20 mL) and extract the aqueous layer with dichloromethane (20 mL). Dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 30:70 ethyl acetate:hexanes) to give the title compound (51%).

reactant | boron trifluoride diethyl etherate | 2.83 mmol, 0.358 mL | B(F)(F)F.CCOCC
reactant | 5-benzoyl-N-methyl-N-propyl-isophthalamic acid methyl ester | 0.566 mmol, 0.192 g | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C1=CC=CC=C1)=O)=O | C20H21NO4
reactant | 1,3-propanedithiol | 1.12 mmol, 0.114 mL | C(CCS)S | C3H8S2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-Methyl-5-(2-phenyl-[1,3]dithian-2-yl)-N-propyl-isophthalamic acid methyl ester | 51% | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C1(SCCCS1)C1=CC=CC=C1)=O | C23H27NO3S2
